US07495004B2
8-Bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-bromotheophylline (10 g, 39 mmol) in 30 mL water was treated with potassium carbonate (2.6 g, 48 mmol). The reaction mixture was refluxed until dissolved. Ethanol (30 mL) was added to the hot reaction mixture and the resulting potassium salt was filtered, washed with acetone, and dried in a 100° C. vacuum oven. A solution of 2-chloro-6-fluorobenzyl bromide (5.3 g, 24 mmol) in 10 mL DMSO was treated with the solid potassium salt The reaction mixture was heated to 100° C. for 1 hour and cooled. Upon addition of 5 mL water, the mixture was collected by filtration and dried in a vacuum oven to yield a white solid (6.0 g, 89% yield): 1H NMR (CDCl3, 300 MHz) 7.37-7.21 (m, 2H), 7.07-6.96 (m, 1H), 5.87 (s, 2H), 3.60 (s, 3H), 3.42 (s, 3H); MS (ESP+) m/e 402 (MH+).

reactant | 8-bromotheophylline | 39 mmol, 10 g | BrC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7BrN4O2
reactant | potassium carbonate | 48 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-fluorobenzyl bromide | 24 mmol, 5.3 g | ClC1=C(CBr)C(=CC=C1)F | C7H5BrClF
reactant | potassium | [K] | K
solvent | water | 30 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 5 mL | O | H2O
solvent | Ethanol | 30 mL | C(C)O | C2H6O
product | 8-Bromo-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 6.0 g, 89% yield | BrC1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C14H11BrClFN4O2
